US08389511B2
tert-Butyl (3R)-3-(isopropyl{[2-methyl-3-oxo-4-[2-(propynylamino)ethyl]-2-[(propynyloxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate
tert-Butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-3-oxo-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (24.9 g) was dissolved in methanol (300 mL), and thereto was added a 10% palladium/carbon (50% wet.: 30.0 g), and the mixture was vigorously stirred under hydrogen atmosphere at room temperature for 36 hours. After the reaction was complete, the mixture was filtered on celite, washed with ethyl acetate, and the filtrate was concentrated under reduced pressure. tert-Butyl (3R)-3-[{[4-(2-aminomethyl)-2-(hydroxymethyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate was dissolved in dichloromethane (300 ml), and thereto were added propionyl chloride (2.7 ml) and triethylamine (6.5 mL), and the mixture was stirred for one hour. To the reaction solution was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was dried over sodium sulfate, filtered, concentrated under reduced pressure. The obtained residue was purified by column chromatography to give the title compound (5.48 g).

reactant | tert-Butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-3-oxo-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 24.9 g | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(COC2OCCCC2)C)=O)C(=O)OCC2=CC=CC=C2 | C47H59F3N4O9
solvent | methanol | 300 mL | CO | CH4O
catalyst | palladium/carbon | 30.0 g | [Pd] | Pd
product | tert-Butyl (3R)-3-(isopropyl{[2-methyl-3-oxo-4-[2-(propynylamino)ethyl]-2-[(propynyloxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate | 5.48 g | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(COC#CC)C)=O)CCNC#CC)C1)C(F)(F)F | C33H43F3N4O6
